US09079878B2
2-{3-[(tert-Butylsulfinyl)amino]oxetan-3-yl}butanoic acid
Methyl 2-{3-[(tert-butylsulfinyl)amino]oxetan-3-yl}butanoate (Preparation 35, 2.89 g, 10.42 mmol) was stirred in methanol (30 mL) and a 1M aqueous solution of sodium hydroxide (30 mL) for 18 hours at room temperature. The reaction was concentrated in vacuo and partitioned between diethyl ether and water. The pH of the aqueous layer was adjusted to pH3 with potassium hydrogen sulphate and extracted with dichloromethane. The organic layer was dried over MgSO4 and concentrated in vacuo to afford the title compound that was used without purification in the next step.

reactant | Methyl 2-{3-[(tert-butylsulfinyl)amino]oxetan-3-yl}butanoate | 10.42 mmol, 2.89 g | C(C)(C)(C)S(=O)NC1(COC1)C(C(=O)OC)CC | C12H23NO4S
reactant | sodium hydroxide | 30 mL | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | 2-{3-[(tert-Butylsulfinyl)amino]oxetan-3-yl}butanoic acid | C(C)(C)(C)S(=O)NC1(COC1)C(C(=O)O)CC | C11H21NO4S
